US06346543B1
Acetonitrile/methanol/ammonium acetate (10 mM);
Brain: Added 100 μl of acetonitrile to homogenised sample (100 mg of a 1:1 w/w brain with water homogenate) and vortexed. Added 1 ml of diethyl ether, vortexed, centrifuged, removed organic layer, and dried under N2. Reconstituted in 200 μl of mobile phase and injected 150 μl.

reactant | acetonitrile | 100 μl | C(C)#N | C2H3N
reactant | water | O | H2O
reactant | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | Acetonitrile methanol ammonium acetate | C(C)#N.CO.C(C)(=O)[O-].[NH4+] | InChI=1S/C2H3N.C2H4O2.CH4O.H3N/c1-2-3;1-2(3)4;1-2;/h1H3;1H3,(H,3,4);2H,1H3;1H3
